US04411898
2-Ethoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate acid (syn isomer) (100 g.), formic acid (85.5 g.) and acetic anhydride (190.1 g.) were treated according to a similar manner to that of Example 7(a) (5) to give 2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (99.1 g.).

reactant | 2-Ethoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate | 100 g | C(C)ON=C(C(=O)[O-])C=1N=C(SC1)N
reactant | acetic anhydride | 190.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 85.5 g | C(=O)O | CH2O2
product | 2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 99.1 g | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
